US05466694
34.70 g of 2-amino-4-isobutylamino-6-chloropyrimidine are dissolved in 250 ml of ethanol. 81.50 g of metachloroperbenzoic acid, in solution in 350 ml of ethanol, are added dropwise and while keeping the temperature of the reaction mixture at 20° C. After stirring for 2 h 30 min, the precipitate formed is filtered on sintered glass, washed with 100 ml of ethyl ether and then taken up in 100 ml of water. The pH is adjusted to 8 by addition of concentrated sodium hydroxide solution. After stirring for 1 hour, the precipitate is filtered on sintered glass, washed with 3×50 ml of water and dried under vacuum over phosphorus pentoxide at 50° C. 11.30 g of 2-amino-4-isobutylamino-6-chloropyrimidine 3-oxide are obtained.

reactant | 2-amino-4-isobutylamino-6-chloropyrimidine | 34.70 g | NC1=NC(=CC(=N1)NCC(C)C)Cl | C8H13ClN4
reactant | metachloroperbenzoic acid | 81.50 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 2-amino-4-isobutylamino-6-chloropyrimidine 3-oxide | 11.30 g | NC1=NC(=CC(=[N+]1[O-])NCC(C)C)Cl | C8H13ClN4O
